US06908884B2
A solution of 22.5 g (93 mmol) of methyl 2-chloro-4-methyl-benzothiazole-5-carboxylate in 360 ml of N-methylpyrrolidone was admixed with 13.6 g (186 mmol) of potassium methoxide and heated at 100° C. for 5 hours. After cooling, the resulting precipitate was filtered off with suction and the filtrate was admixed with water. The pH of the reaction solution was then adjusted to pH 1, the aqueous solution was extracted three times with ethyl acetate and the combined organic phases were washed and dried. The solvent was removed under reduced pressure and the residue was purified by trituration with methylene chloride/n-hexane. This gave, in a yield of 55%, 11.38 g (51 mmol) of methyl 4-methylbenzothiazol-2-one-5-carboxylate of m.p. 262° C.-266° C.

reactant | methyl 2-chloro-4-methyl-benzothiazole-5-carboxylate | 93 mmol, 22.5 g | ClC=1SC2=C(N1)C(=C(C=C2)C(=O)OC)C | C10H8ClNO2S
reactant | potassium methoxide | 186 mmol, 13.6 g | C[O-].[K+]
solvent | N-methylpyrrolidone | 360 ml | CN1C(CCC1)=O | C5H9NO
product | methyl 4-methylbenzothiazol-2-one-5-carboxylate | 51 mmol, 11.38 g, yield of 55% | CC1=C(C=CC2=C1NC(S2)=O)C(=O)OC | C10H9NO3S
